US05739351
1.68 g of sodium azide are added to a solution, which has been brought to 50° C., of 9.0 g (3aS,4S,6R,7aR)-4-(2-methoxyphenyl)-2-[(S)-2-(2-methoxyphenyl)propionyl]-6-tosyloxymethylperhydroisoindol-4-ol in 50 cm3 of dimethylformamide. The reaction mixture is stirred at 20° C. for 20 hours and then diluted with 350 cm3 of water and subjected to extraction with 100 cm3 of ethyl acetate. The organic phase is washed with 100 cm3 of water, dried over magnesium sulphate and then concentrated to dryness under reduced pressure (2.7 kPa). 7.0 g of (3aS,4S,6R,7aR)-6-azidomethyl-4-(2-methoxyphenyl)-2-[(S)-2-(2-methoxyphenyl)propionyl]perhydroisoindol-4-ol are obtained in the form of a thick white foam.

reactant | sodium azide | 1.68 g | [N-]=[N+]=[N-].[Na+]
reactant | (3aS,4S,6R,7aR)-4-(2-methoxyphenyl)-2-[(S)-2-(2-methoxyphenyl)propionyl]-6-tosyloxymethylperhydroisoindol-4-ol | 9.0 g | COC1=C(C=CC=C1)[C@]1([C@@H]2CN(C[C@@H]2C[C@H](C1)COS(=O)(=O)C1=CC=C(C)C=C1)C([C@@H](C)C1=C(C=CC=C1)OC)=O)O | C33H39NO7S
solvent | dimethylformamide | 50 cm3 | CN(C=O)C | C3H7NO
solvent | water | 350 cm3 | O | H2O
product | (3aS,4S,6R,7aR)-6-azidomethyl-4-(2-methoxyphenyl)-2-[(S)-2-(2-methoxyphenyl)propionyl]perhydroisoindol-4-ol | 7.0 g | N(=[N+]=[N-])C[C@H]1C[C@@]([C@@H]2CN(C[C@@H]2C1)C([C@@H](C)C1=C(C=CC=C1)OC)=O)(O)C1=C(C=CC=C1)OC | C26H32N4O4
